US08431605B2
c) 2-Chloro-3-pyridin-3-yl-propionaldehyde
A solution of sodium nitrite (20. g, 0.28 mol) in water (100 mL) was slowly added to a solution of 2-methoxy-pyridin-3-ylamine (36 g, 0.25 mol) in hydrochloric acid (20% aqueous solution, 60 mL) at 0° C. After stirring for 10 minutes, a cooled (0° C.) solution of acrolein (25 mL, 0.37 mol) in acetone (25 mL) containing calcium oxide (5 g, 0.09 mol) was slowly added to the reaction mixture. This was then followed by a solution of cuprous chloride (2.5 g, 0.025 mol) in acetone (25 mL) containing hydrochloric acid (20% aqueous solution, 5 mL). The mixture was stirred at 0 to 30° C. for 3 hours, and then extracted three times with dichloromethane (150 mL). The combined organic layers were washed with a saturated aqueous solution of sodium bicarbonate, a saturated aqueous solution of sodium chloride, dried over sodium sulfate, filtered, and evaporated to dryness to give a black viscous oil. The crude product was passed through a short silica column to give a crude product, which was used directly in the next step.

reactant | sodium nitrite | 0.28 mol | N(=O)[O-].[Na+]
reactant | 2-methoxy-pyridin-3-ylamine | 0.25 mol, 36 g | COC1=NC=CC=C1N | C6H8N2O
reactant | acrolein | 0.37 mol, 25 mL | C(=O)C=C | C3H4O
reactant | calcium oxide | 0.09 mol, 5 g | [O-2].[Ca+2]
reactant | hydrochloric acid | 60 mL | Cl | ClH
reactant | hydrochloric acid | 5 mL | Cl | ClH
solvent | water | 100 mL | O | H2O
solvent | acetone | 25 mL | CC(=O)C | C3H6O
solvent | acetone | 25 mL | CC(=O)C | C3H6O
product | 2-Chloro-3-pyridin-3-yl-propionaldehyde | ClC(C=O)CC=1C=NC=CC1 | C8H8ClNO
